US05719297
A 1.24 g amount of (5R,2S)-5-{(4R)-4-[(1R, 7aR)-octahydro-4-trimethylsilyloxy-7a-methyl-1H-inden-1-y l]-1-hydroxy-2-penten-1-yl}-5-methyl-2-t-butyl-1, 3-dioxolan-4-one and 1.0 g of 4-dimethylaminopyridine were dissolved in 15 ml of dichloromethane in a 50 ml eggplant-shaped flask. The solution was stirred under ice-cooling while slowly adding 315 μl of methyl chloroformate, then was stirred at the same temperature for 15 minutes and at room temperature for 1.5 hours. A 100 ml amount of ethyl acetate and 30 ml of water were added for separation, and extraction was performed from the aqueous layer by 50 ml of ethyl acetate. The organic layer was washed by a saturated aqueous solution of potassium hydrogensulfate, a saturated aqueous solution of sodium hydrogencarbonate, and saturated saline and was dried over anhydrous magnesium sulfate. The desiccant was filtered out, then the filtrate was concentrated under reduced pressure to obtain a crude product in an amount of 3.61 g. This was purified by a silica column (hexane/ethyl acetate=19/1 to 9/1) to obtain (5R,2S)-5-{(4R)-4-[(1R,7aR)-octahydro-4-trimethylsilyloxy-7a-methyl-1H-inden-1-yl]-1-methoxycarbonyloxy-2-penten-1-yl}-5-methyl-2-t-butyl-1,3-dioxolan-4-one in an amount of 1.388 g (98%).

reactant | (5R,2S)-5-{(4R)-4-[(1R, 7aR)-octahydro-4-trimethylsilyloxy-7a-methyl-1H-inden-1-y l]-1-hydroxy-2-penten-1-yl}-5-methyl-2-t-butyl-1, 3-dioxolan-4-one | C[Si](OC1C2CC[C@@H]([C@]2(CCC1)C)[C@@H](C=CC(O)[C@@]1(C(O[C@H](O1)C(C)(C)C)=O)C)C)(C)C | C26H46O5Si
reactant | methyl chloroformate | 315 μl | ClC(=O)OC | C2H3ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | 30 ml | O | H2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 1.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (5R,2S)-5-{(4R)-4-[(1R,7aR)-octahydro-4-trimethylsilyloxy-7a-methyl-1H-inden-1-yl]-1-methoxycarbonyloxy-2-penten-1-yl}-5-methyl-2-t-butyl-1,3-dioxolan-4-one | C[Si](OC1C2CC[C@@H]([C@]2(CCC1)C)[C@@H](C=CC(OC(=O)OC)[C@@]1(C(O[C@H](O1)C(C)(C)C)=O)C)C)(C)C | C28H48O7Si
